US09422275B2
N-(4-(2,6-Dimethyl-4-nitrophenyl)thiazol-2-yl)isonicotinamide (INH78)
To a solution of 4-(2,6-Dimethyl-4-nitrophenyl)thiazol-2-amine (92 mg, 0.37 mmol) in DCM (2 mL) was added DMAP (90 mg, 0.74 mmol) followed by isonicotinoyl chloride hydrochloride (85 mg, 0.48 mmol). Then the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated, and the saturated aqueous sodium bicarbonate (30 mL) was added. The aqueous solution was extracted with DCM (3×10 mL). The combined organic layers were dried with anhydrous sodium sulfate. After removal of all the solvent, the residue was purified by silica gel chromatography (hexane/EtOAc=4:1) to give INH78 (82 mg, 62%) as a white solid; mp 258-260° C. 1H NMR (400 MHz, DMSO-d6) δ 8.79-8.77 (m, 2H), 8.02 (s, 2H), 8.97-8.95 (m, 2H), 7.32 (s, 1H), 2.20 (s, 6H). 13C NMR (125 MHz, DMSO-d6) δ 164.5, 150.9, 147.2, 142.9, 139.8, 139.7, 113.4, 20.7. MS (ESI) m/z 355.0 (M+H+). HRMS calculated for C17H14N4O3SH (M+H+), 355.0865. found, 355.0867.

reactant | 4-(2,6-Dimethyl-4-nitrophenyl)thiazol-2-amine | 0.37 mmol, 92 mg | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)C=1N=C(SC1)N | C11H11N3O2S
reactant | isonicotinoyl chloride hydrochloride | 0.48 mmol, 85 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.74 mmol, 90 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-(2,6-Dimethyl-4-nitrophenyl)thiazol-2-yl)isonicotinamide | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)C=1N=C(SC1)NC(C1=CC=NC=C1)=O | C17H14N4O3S
